US04816587
Preparation of 2-bromoergosine
Following the process of Example 30, 1 g of ergosine is brominated with 1.4 ml of trimethylbromosilane. The title compound is isolated in a yield of 1.1 g (0.001716 mole, 94%), m.p.: 183°-185° C., [α]D20 =-91.6° (c=1, methanol).

reactant | ergosine | 1 g | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C)NC(=O)[C@H]4CN([C@@H]5CC6=CNC7=CC=CC(=C67)C5=C4)C)O | C30H37N5O5
reactant | trimethylbromosilane | 1.4 ml | C[Si](Br)(C)C | C3H9BrSi
solvent | methanol | CO | CH4O
product | 2-bromoergosine | CC(C)C[C@H]1C(=O)N2CCC[C@H]2[C@]3(N1C(=O)[C@](O3)(C)NC(=O)[C@H]4CN([C@@H]5CC6=C(NC7=CC=CC(=C67)C5=C4)Br)C)O | C30H36BrN5O5
